US08097759B2
5-Chloro-2-hydroxy-N-[4-methyl-3-(trifluoromethyl)phenyl]benzamide (Compound No. 119)
Using 5-chlorosalicylic acid and 4-methyl-3-(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 4-methyl-3-(trifluoromethyl)aniline | CC1=C(C=C(N)C=C1)C(F)(F)F | C8H8F3N
product | 5-Chloro-2-hydroxy-N-[4-methyl-3-(trifluoromethyl)phenyl]benzamide | Yield: 80.2% | ClC=1C=CC(=C(C(=O)NC2=CC(=C(C=C2)C)C(F)(F)F)C1)O | C15H11ClF3NO2
